US08222263B2
To a stirred solution of 4-(4-phenylquinazolin-2-ylamino)benzoic acid (1.02 g, 2.99 mmol), prepared as described in Example 10, methyl 3-amino-4-methylbenzooate (496 mg, 3.01 mmol), and Hunig's base (1.57 mL, 9.01 mmol) in dimethylformamide (15 mL) was added HATU (1.14 g, 3.00 mmol). The stirred mixture was heated to 60° C. overnight, then cooled to rt. The reaction was diluted with dichloromethane and washed with 2 N aqueous sodium hydroxide. The organic layer was then dried over sodium sulfate and concentrated on a rotary evaporator. The residue was sonicated with acetonitrile and filtered to give a light yellow solid that was suspended in a mixture of methanol (22 mL) and tetrahydrofuran (11 mL). A 1 N aqueous solution of sodium hydroxide (11 mL) was added and the stirred mixture was heated to 70° C. for 3 h. The reaction mixture was cooled to rt, concentrated on a rotary evaporator and redissolved in water, which was then made acidic with 1 N aqueous hydrochloric acid until the pH of the solution reached 5. The precipitate that formed was collected and dried in vacuo to afford 4-methyl-3-[({4-[(4-phenylquinazolin-2-yl)amino]phenyl}carbonyl)amino]benzoic acid (1.23 g, 86%) as a yellow solid. 1H NMR (400 MHz, DMSO-d6): δ 10.34 (s, 1H), 9.82 (s, 1H), 8.18 (d, 2H), 8.00 (d, 2H), 7.95 (s, 1H), 7.90-7.78 (m, 5H), 7.72 (dd, 1H), 7.66-7.64 (m, 3H), 7.42 (ddd, 1H), 7.36 (d, 1H), 2.31 (s, 3H). MS (EI) for C29H22N4O3: 475.3 (MH+).

reactant | 4-(4-phenylquinazolin-2-ylamino)benzoic acid | 2.99 mmol, 1.02 g | C1(=CC=CC=C1)C1=NC(=NC2=CC=CC=C12)NC1=CC=C(C(=O)O)C=C1 | C21H15N3O2
reactant | Hunig's base | 9.01 mmol, 1.57 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 3.00 mmol, 1.14 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | sodium hydroxide | 11 mL | [OH-].[Na+]
reactant | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | 22 mL | CO | CH4O
solvent | tetrahydrofuran | 11 mL | O1CCCC1 | C4H8O
product | 4-methyl-3-[({4-[(4-phenylquinazolin-2-yl)amino]phenyl}carbonyl)amino]benzoic acid | 1.23 g, 86% | CC1=C(C=C(C(=O)O)C=C1)NC(=O)C1=CC=C(C=C1)NC1=NC2=CC=CC=C2C(=N1)C1=CC=CC=C1 | C29H22N4O3
